US05360815
Step 1: 2-Benzyloxy acetaldehyde
A solution of 11.1 g of 1.4-bis(benzyloxy)-2-butene (Gamer, et al., Synthetic Communications, 17 #2 p. 184 (1987)) in a mixture of 400 mL of CH2Cl2 and 100 mL of MeOH containing 2.6 g NaHCO3, was cooled to -78° C. Ozone was passed into the mixture until the blue color persisted. Nitrogen was then bubbled through to remove the excess of ozone and dimethyl sulfide (1.3 eq.) was added. After warming to r.t. and stirring overnight, the reaction was filtered and concentrated. To the residual syrup was added 34 mL of H2O and 12 mL of HOAc followed by 8.0 g of Zn dust. After stirring vigorously for 60 min., the mixture was filtered and the residue was washed 3x with Et2O. The filtrate was extracted with Et2O and the organic layer was washed with brine and saturated aqueous NaHCO3, then dried with MgSO4. It was concentrated in vacuo to give 15 g of syrup. The residue was purified by flash chromatography on 200 g of silica gel with 15% ether/pentane to give 10.8 g of the title product (87% ).

reactant | 1.4-bis(benzyloxy)-2-butene | 11.1 g | C(C1=CC=CC=C1)OCC=CCOCC1=CC=CC=C1 | C18H20O2
reactant | Ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 1.3 eq. | CSC | C2H6S
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 mL, 2.6 g | CO | CH4O
product | 2-Benzyloxy acetaldehyde | 15 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
